US07718437B2
Synthesis of 3-[4-(4-dimethylamino-phenylazo)-phenyl]-5-isopropyl-1-methyl-2-thioxo-imidazolidin-4-one (6, DABTH-MeVal).
From a stock solution of 0.500 M N-(Me)-D,L-valine (20 mmol in 40 mL 0.25 M KOH), a 5.0-mL aliquot (2.5 mmol MeVal) was heated to 60° C. and mixed with 0.100M DABITC (5.0 mL, 0.5 mmol) in dioxane. In order to obtain a homogeneous solution another 3.5 mL dioxane and 2.5 mL water were added. This reaction mixture became inhomogeneous in contrast to the mixture containing Val, indicating that the DABTH-MeVal formed precipitated. The reaction was monitored by TLC (SiO2 Tol/EtOAc, 2:1; spots developed with both UV and long wavelength light) and after 30 min all the DABITC had been consumed. The subsequent extraction was performed as described above. The product crystallized from DCM:hexane (1:4, v/v) to yield 189.0 mg (99.5%) of the desired product. Analysis: m.p. 164.5-169° C., Rf-TLC 0.73 (SiO2; EtOAc:MeOH, 4:1). UV (acetonitrile:water 1:1) λmax=265 nm, ε265=26000 (see also FIG. 12). Fluorescence measurements: see FIGS. 9 and 10. 1H NMR(CDCl3, 25° C.) δ1.05, 1.25[d+d, 3+3H, J=6.9, 7.1 Hz, CH3(γ,γ′)], 2.47 [m, 1H, J=3.3, 6.9, 7.1 Hz, CH(β)], 3.09 [s, 6H, N(CH3)2] 3.4[s, 3H, N—CH3], 4.4 [d, 1H, J=3.3 Hz, CH(α)], 6.74, 6.77 [d+d, 2H, azobenzene C6—H, C7—H] 7.37, 7.40 [d+d, 2H, azobenzene C5—H, C8—H] 7.87, 7.90, 7.92, 7.95 [4d, 4H, azobenzene C1—H—C4—H].

reactant | MeVal | 2.5 mmol | N([C@@H](C(C)C)C(=O)O)C | C6H13NO2
reactant | DABITC | 0.5 mmol, 0.100M, 5.0 mL | CN(C)C1=CC=C(C=C1)N=NC2=CC=C(C=C2)N=C=S | C15H14N4S
reactant | Val | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | DABTH MeVal | CC1CN(CC(O1)C)C(=O)CN2C3=CC=CC=C3SC2=O.N([C@@H](C(C)C)C(=O)O)C
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 3.5 mL | O1CCOCC1 | C4H8O2
solvent | water | 2.5 mL | O | H2O
product | 3-[4-(4-dimethylamino-phenylazo)-phenyl]-5-isopropyl-1-methyl-2-thioxo-imidazolidin-4-one | 189.0 mg, 99.5% | CN(C1=CC=C(C=C1)N=NC1=CC=C(C=C1)N1C(N(C(C1=O)C(C)C)C)=S)C | C21H25N5OS
